US07855294B2
1) (R)-1-tert-butoxycarbonyl-3-methylpiperazine
In a nitrogen atmosphere, 115 mL of di-tert-butyl dicarbonate was dropwise added to chloroform (500 mL) solution of 50.0 g of (R)-2-methylpiperazine, over 1 hour. The reaction liquid was washed with water, and dried with anhydrous magnesium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain 63.5 g of the entitled compound as a colorless oily substance.

reactant | di-tert-butyl dicarbonate | 115 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-2-methylpiperazine | 50.0 g | C[C@H]1NCCNC1 | C5H12N2
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-1-tert-butoxycarbonyl-3-methylpiperazine | 63.5 g | C(C)(C)(C)OC(=O)N1C[C@H](NCC1)C | C10H20N2O2
